US06884868B1
To a mixture of cesium carbonate (1.39 g), palladium(II) acetate (34.1 mg) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (142 mg) in toluene (3.1 ml) was successively added ethyl 4-(piperazin-1-yl)benzoate (0.85 g) and a solution of 5-bromo-2-(7-methoxyheptyloxy)-1,3-dimethylbenzene (1.00 g) in toluene (3 ml) in a stream of nitrogen. The mixture was stirred at ambient temperature for 30 minutes and refluxed for a further 20 hours. After cooling, the reaction mixture was concentrated in vacuo and to the residue was added water and methylene chloride. The organic layer was separated, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting successively with the following solvent: (1) n-hexane, (2) n-hexane;ethyl acetate=9:1, (3) n-hexane:ethyl acetate=5:1. The fractions containing the object compound were concentrated in vacuo to give ethyl 4-[4-[4-(7-methoxyheptyloxy)-3,5-dimethylphenyl]piperazin-1-yl]benzoate (0.53 g) as a pale yellow solid.

reactant | cesium carbonate | 1.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 142 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | ethyl 4-(piperazin-1-yl)benzoate | 0.85 g | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
reactant | 5-bromo-2-(7-methoxyheptyloxy)-1,3-dimethylbenzene | 1.00 g | BrC=1C=C(C(=C(C1)C)OCCCCCCCOC)C | C16H25BrO2
solvent | toluene | 3.1 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 34.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 4-[4-[4-(7-methoxyheptyloxy)-3,5-dimethylphenyl]piperazin-1-yl]benzoate | 0.53 g | COCCCCCCCOC1=C(C=C(C=C1C)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1)C | C29H42N2O4
